US09389227B2
Preparation of A-[9]-acid (9-anthrylmethyl N-({[tris({2-[({tris[(2-carboxyethoxy)methyl]methyl}amino)carbonyl]ethoxy}methyl)methyl]amino}carbonyl)propylcarbamate)
A mixture of 9-anthrylmethyl N-[({tris[(2-{[(tris{[2-(methoxycarbonyl)ethoxy]methyl}methyl)amino]carbonyl}ethoxy)methyl]methyl}amino)carbonyl]propylcarbamate (0.60 g, 0.34 mmol) in acetone (30 ml) and 0.20 N NaOH (30 ml) was stirred at room temperature for 1 d, after which acetone was removed. The aqueous solution was washed with EA, stirred in an ice bath, acidified with dilute HCl, and extracted with EA. The organic layer was dried with MgSO4, filtered, and concentrated to yield 0.37 g (68% yield) of a yellow powder.

reactant | 9-anthrylmethyl N-[({tris[(2-{[(tris{[2-(methoxycarbonyl)ethoxy]methyl}methyl)amino]carbonyl}ethoxy)methyl]methyl}amino)carbonyl]propylcarbamate | 0.34 mmol, 0.60 g | COC(=O)CCOCC(COCCC(=O)OC)(COCCC(=O)OC)NC(=O)CCOCC(COCCC(=O)NC(COCCC(=O)OC)(COCCC(=O)OC)COCCC(=O)OC)(COCCC(=O)NC(COCCC(=O)OC)(COCCC(=O)OC)COCCC(=O)OC)NC(=O)CCCNC(OCC=1C2=CC=CC=C2C=C2C=CC=CC12)=O | C81H121N5O36
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | NaOH | 0.20 N, 30 ml | [OH-].[Na+]
product | 9-anthrylmethyl N-({[tris({2-[({tris[(2-carboxyethoxy)methyl]methyl}amino)carbonyl]ethoxy}methyl)methyl]amino}carbonyl)propylcarbamate | 0.37 g, 68% yield | C(=O)(O)CCOCC(COCCC(=O)O)(COCCC(=O)O)NC(=O)CCOCC(COCCC(=O)NC(COCCC(=O)O)(COCCC(=O)O)COCCC(=O)O)(COCCC(=O)NC(COCCC(=O)O)(COCCC(=O)O)COCCC(=O)O)NC(=O)CCCNC(OCC=1C2=CC=CC=C2C=C2C=CC=CC12)=O | C72H103N5O36
